US06861424B2
7-methyl-4-hydroxy-2-methoxycarbonylquinoline (6.45 g, 30.14 mmol) was suspended in MeOH (150 mL) and water (100 mL), and LiOH (3.08 g, 75.5 mmol) was added and stirred at ambient temperature for 2 hours. The methanol was evaporated in vacuo and residue was crystallized by addition of 2N hydrochloric acid. The resulting solid was filtered, washed with water and dried to afford 7-methyl-4-hydroxy-2-carboxyquinoline (6.0 g, 98%), NMR (DMSO-d6) 2.40 (s, 3), 6.68 (s, 1), 7.22 (d, 1), 7.68 (s, 1), 7.96 (d, 1).

reactant | 7-methyl-4-hydroxy-2-methoxycarbonylquinoline | 30.14 mmol, 6.45 g | CC1=CC=C2C(=CC(=NC2=C1)C(=O)OC)O | C12H11NO3
reactant | LiOH | 75.5 mmol, 3.08 g | [Li+].[OH-]
solvent | MeOH | 150 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 7-methyl-4-hydroxy-2-carboxyquinoline | 6.0 g, 98% | CC1=CC=C2C(=CC(=NC2=C1)C(=O)O)O | C11H9NO3
